US06492348B1
(3aS,4S,6R,6aR)-6-(6-Isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid
A mixture of (3aS,4S,6R,6aR)-6-(6-chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid (5.82 g) and isopropyl amine (7.27 ml) in isopropanol (20 ml) was heated under reflux for 40 h, cooled to room temperature and concentrated in vacuo. The resulting residue was partitioned between ethyl acetate (75 ml) and citric acid (0.5M, 75 ml). The layers were separated, and the organic phase washed with citric acid solution (2×50 ml). The combined organic extracts were washed with water (50 ml) and brine (80 ml), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a light brown foam (4.49 g).

reactant | (3aS,4S,6R,6aR)-6-(6-chloro-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 5.82 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C13H13ClN4O5
reactant | isopropyl amine | 7.27 ml | C(C)(C)N | C3H9N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | (3aS,4S,6R,6aR)-6-(6-Isopropylamino-purin-9-yl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 4.49 g | C(C)(C)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C16H21N5O5
